US04616020
(a) 1,3-Dibutyl-7-(3,4-epoxybutyl)xanthine
39.4 g of m-chloroperbenzoic acid (70% pure) were added to a solution of 42.7 g of 1,3-dibutyl-7-(3-butenyl)xanthine in 900 ml of chloroform within 15 minutes, with stirring. After stirring at room temperature for 27 hours, the mixture was washed with 10% strength sodium dithionite solution, saturated sodium bicarbonate solution and water, dried and evaporated under reduced pressure. The residue was chromatographed on a silica gel column with a mixture of methylene chloride/acetone (7:3, v:v) and recrystallized from petroleum ether.

reactant | m-chloroperbenzoic acid | 39.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1,3-dibutyl-7-(3-butenyl)xanthine | 42.7 g | C(CCC)N1C(=O)N(C=2N=CN(C2C1=O)CCC=C)CCCC | C17H26N4O2
solvent | chloroform | 900 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,3-Dibutyl-7-(3,4-epoxybutyl)xanthine | C(CCC)N1C(=O)N(C=2N=CN(C2C1=O)CCC1CO1)CCCC | C17H26N4O3
